US05917057
A slurry containing 24.6 g of zinc dust in 100 ml dry toluene was treated dropwise with a solution containing 73.5 g of ethyl bromoisobutyrate and 65 g of 4-acetoxybenzaldehyde in 200 ml dry toluene. A crystal of iodine was added to initiate the reaction and the mixture was heated to reflux overnight. An additional equivalent of ethyl bromoisobutyrate was added and reflux was continued for 24 hours. After cooling, the filtrate was hydrogenated over palladium and the residue purified by flash chromatography to give 12.2 g of 3-(4-hydroxyphenyl)-2,2-dimethylpropanoic acid ethyl ester as an oil.

reactant | ethyl bromoisobutyrate | 73.5 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | 4-acetoxybenzaldehyde | 65 g | C(C)(=O)OC1=CC=C(C=O)C=C1 | C9H8O3
reactant | iodine | II | I2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 24.6 g | [Zn] | Zn
catalyst | palladium | [Pd] | Pd
product | 3-(4-hydroxyphenyl)-2,2-dimethylpropanoic acid ethyl ester | 12.2 g | C(C)OC(C(CC1=CC=C(C=C1)O)(C)C)=O | C13H18O3
